US08440693B2
Intermediate 147.5: 4-Nitro-benzoic acid 3-(tert-butoxycarbonylamino-methyl)-cyclobutyl ester
To an ice-cooled solution of (3-Hydroxy-cyclobutylmethyl)-carbamic acid tert-butyl ester (6.98 g, 34.7 mmol), 4-nitrobenzoic acid (11.59 g, 69.4 mmol) and triphenylphosphine (18.19 g, 69.4 mmol) in THF (1 L) was added a solution of DIAD (14.76 g, 69.4 mmol) in THF (10 mL). After removal of the ice bath, the mixture was stirred at RT for 15 h. The mixture was concentrated to dryness and the oily residue was purified normal phase column chromatography (elution with DCM) yielding the title intermediate as a yellow solid (9.89 g, 22.58 mmol, 65%), HPLC: FtRet=1.354; LC-MS: m/z 368.3 [M+NH4]+.

reactant | (3-Hydroxy-cyclobutylmethyl)-carbamic acid tert-butyl ester | 34.7 mmol, 6.98 g | C(C)(C)(C)OC(NCC1CC(C1)O)=O | C10H19NO3
reactant | 4-nitrobenzoic acid | 69.4 mmol, 11.59 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | triphenylphosphine | 69.4 mmol, 18.19 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 69.4 mmol, 14.76 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Nitro-benzoic acid 3-(tert-butoxycarbonylamino-methyl)-cyclobutyl ester | 22.58 mmol, 9.89 g, 65% | C(C)(C)(C)OC(=O)NCC1CC(C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H22N2O6
